US06747023B1
2-[[4-[(6-Chloronaphthalen-2-yl)sulfonyl]piperazin-1-yl]carbonyl]-6-methyl-4,5,6,7-tetrahydrofuro[2,3-c]pyridine hydrochloride
To a solution of 6-methyl-4,5,6,7-tetrahydrofuro[2,3-c]pyridine (58.1 mg) in tetrahydrofuran (3.2 ml), n-butyl lithium (a 1.59N hexane solution, 320 μl) was added at −78° C., followed by stirring for 1 hour and then at 0° C. for 30 minutes. The reaction mixture was cooled to −78° C. and a carbon dioxide gas was introduced thereinto for 1 hour. After the reaction mixture was heated to room temperature over 30 minutes, it was concentrated. To a solution of the resulting residue in N,N-dimethylformamide (6.0 ml), 1-[(6-chloronaphthalen-2-yl)sulfonyl]piperazine hydrochloride (177 mg, 510 μmol) was dissolved, followed by the addition of 1-(dimethylaminopropyl)-3-ethylcarbodiimide (98.0 mg, 511 μmol) and 1-hydroxybenzotriazole (69.0 mg, 511 μmol) at room temperature and then, diisopropylethylamine (185 μl, 1.06 mmol) at 0° C. After stirring overnight at room temperature, the reaction mixture was added with methylene chloride (20 ml) and a saturated aqueous solution (50 ml) of sodium bicarbonate, whereby the organic layer was separated. The resulting organic layer was extracted with methylene chloride (2×10 ml). The organic layers were combined, washed with water (50 ml), dried over anhydrous sodium sulfate and concentrated under reduced pressure. The residue thus obtained was purified twice by preparative thin-layer chromatography on a silica gel (methylene chloride:acetone:methanol=10:5:1). The white solid thus obtained was dissolved in a 1N ethanol hydrochloride solution and the resulting solution was concentrated. After the addition of water, the mixture was concentrated again, whereby the title compound (74.7 mg) was obtained as a white solid.

reactant | 6-methyl-4,5,6,7-tetrahydrofuro[2,3-c]pyridine | 58.1 mg | CN1CC2=C(CC1)C=CO2 | C8H11NO
reactant | carbon dioxide | C(=O)=O | CO2
reactant | 1-[(6-chloronaphthalen-2-yl)sulfonyl]piperazine hydrochloride | 510 μmol, 177 mg | Cl.ClC=1C=C2C=CC(=CC2=CC1)S(=O)(=O)N1CCNCC1
reactant | 1-(dimethylaminopropyl)-3-ethylcarbodiimide | 511 μmol, 98.0 mg | CN(C)CCCN=C=NCC | C8H17N3
reactant | 1-hydroxybenzotriazole | 511 μmol, 69.0 mg | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | diisopropylethylamine | 1.06 mmol, 185 μl | C(C)(C)N(CC)C(C)C | C8H19N
solvent | tetrahydrofuran | 3.2 ml | O1CCCC1 | C4H8O
solvent | n-butyl lithium | C(CCC)[Li]
solvent | N,N-dimethylformamide | 6.0 ml | CN(C=O)C | C3H7NO
solvent | ethanol hydrochloride | 1N | Cl.C(C)O
solvent | methylene chloride | 20 ml | C(Cl)Cl | CH2Cl2
solvent | hexane | 1.59N | CCCCCC | C6H14
product | 2-[[4-[(6-Chloronaphthalen-2-yl)sulfonyl]piperazin-1-yl]carbonyl]-6-methyl-4,5,6,7-tetrahydrofuro[2,3-c]pyridine hydrochloride | 74.7 mg | Cl.ClC=1C=C2C=CC(=CC2=CC1)S(=O)(=O)N1CCN(CC1)C(=O)C1=CC2=C(CN(CC2)C)O1 | InChI=1S/C23H24ClN3O4S.ClH/c1-25-7-6-18-14-21(31-22(18)15-25)23(28)26-8-10-27(11-9-26)32(29,30)20-5-3-16-12-19(24)4-2-17(16)13-20;/h2-5,12-14H,6-11,15H2,1H3;1H
